US05998433
b) Synthesis of 6-(4-benzoylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
6-(4-Benzoylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 0.225 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. The resulting mixture was then concentrated to yield the desired product.

reactant | 6-(4-Benzoylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.225 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C26H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-(4-benzoylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | InChI=1S/C26H26N2O3.ClH/c29-25(19-6-2-1-3-7-19)20-8-10-21(11-9-20)26(30)28-15-12-22-16-23(31-24(22)18-28)17-27-13-4-5-14-27;/h1-3,6-11,16H,4-5,12-15,17-18H2;1H
